US06492393B1
(Method L): Synthesis of 1-amino-4-(4-pyridinyl)oxynaphthalene
To a stirred mixture of 4-amino-1-naphthol hydrochloride (2.5 g, 12.8 mmol) and 4-chloropyridine hydrochloride (3.84 g, 29.2 mmol) in NMP (20 ml) was added potassium tert-butoxide (6.0 g, 53.47 mmol) slowly. The mixture was heated at 120° C. for 6 h, cooled to room temperature and diluted with water and dichloromethane. The combined organic extracts were washed with HCl (2N), saturated aqueous NaHCO3 and brine and dried (Na2SO4). Removal of the volatiles in vacuo afforded the product (0.5 g, 16%).

reactant | 4-amino-1-naphthol hydrochloride | 12.8 mmol, 2.5 g | Cl.NC1=CC=C(C2=CC=CC=C12)O
reactant | 4-chloropyridine hydrochloride | 29.2 mmol, 3.84 g | Cl.ClC1=CC=NC=C1
reactant | potassium tert-butoxide | 53.47 mmol, 6.0 g | CC(C)([O-])C.[K+]
solvent | NMP | 20 ml | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-amino-4-(4-pyridinyl)oxynaphthalene | 0.5 g, 16% | NC1=CC=C(C2=CC=CC=C12)OC1=CC=NC=C1 | C15H12N2O
